US08232284B2
Preparation of 5-chloro-N-[3-(dimethylamino)propyl]-N-methyl-6-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)nicotinamide
Using 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol and 5,6-dichloro-N-[3-(dimethylamino)propyl]-N-methylnicotinamide, and in the same manner as in Example 65 or according to a method similar to it or according to a combination thereof with an ordinary method, the entitled compound (58 mg) was obtained as a yellow amorphous solid.

reactant | 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
reactant | 5,6-dichloro-N-[3-(dimethylamino)propyl]-N-methylnicotinamide | ClC=1C(=NC=C(C(=O)N(C)CCCN(C)C)C1)Cl | C12H17Cl2N3O
product | 5-chloro-N-[3-(dimethylamino)propyl]-N-methyl-6-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)nicotinamide | 58 mg | ClC=1C(=NC=C(C(=O)N(C)CCCN(C)C)C1)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C | C24H27ClN8O2
